* C:\Users\jezap\Desktop\Personal\Sonido\Circuit\GuitarLineIn.asc
XTL974 Vin N001 V+ V- Vo level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N002 0 SINE(0 0.8 1K) AC 1
V2 V+ 0 5
V3 0 V- 5
C2 V+ 0 10µ
R3 N001 0 100R
R4 Vo N001 220R
C3 0 V+ 100n
C4 0 V- 100n
C1 0 V- 10µ
R6 N002 0 1m
R1 Vin N002 10k
R2 Vin N003 10k
V4 N003 0 1V
.tran 10m
.lib UniversalOpAmp2.lib
.backanno
.end
